US04929613
4-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)cyclopentyl]2,5-difluorobenzonitrile.
A suspension of 91.35 g (0.225 mol) of 2-[3-(4-bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3-(2H)-dione, 22.4 g (0.25 mol) of copper (I) cyanide and 250 ml of N,N-dimethylformamide was stirred and heated in a nitrogen atmosphere at 170° for 18 hours. The cooled mixture was poured into a solution of 100 ml of concentrated ammonium hydroxide in 1 L of water. The aqueous mixture was extracted with ether (4×350 ml) and the combined ether layers were washed with water (3×300 ml), dried (MgSO4), and evaporated in vacuo to give 71.2 g of the title compound which was used as is for the next step.

reactant | 2-[3-(4-bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3-(2H)-dione | 0.225 mol, 91.35 g | BrC1=CC(=C(C=C1F)C1CC(CC1)N1C(C2=CC=CC=C2C1=O)=O)F | C19H14BrF2NO2
reactant | copper (I) cyanide | 0.25 mol, 22.4 g | [Cu]C#N
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | ammonium hydroxide | 100 ml | [OH-].[NH4+]
solvent | water | 1 L | O | H2O
product | 4-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)cyclopentyl]2,5-difluorobenzonitrile | 71.2 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC(CC1)C1=CC(=C(C#N)C=C1F)F | C20H14F2N2O2
